US04835168
To a stirred solution of 19.2 g (190 mM) of 2-amino-1,3,4-thiadiazole in 200 ml of acetonitrile were added in one portion 25 g (190 mM) of ethoxycarbonyl isothiocyanate. The reaction mixture was stirred at 24° C. for sixteen hours. The precipitate was collected by filtration, washed three times with ethyl acetate and dried to provide 35 g (80% yield) of [(1,3,4-thiadiazol-2-ylamino)thioxomethyl]carbamic acid, ethyl ester.

reactant | 2-amino-1,3,4-thiadiazole | 190 mM, 19.2 g | NC=1SC=NN1 | C2H3N3S
reactant | ethoxycarbonyl isothiocyanate | 190 mM, 25 g | C(C)OC(=O)N=C=S | C4H5NO2S
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | [(1,3,4-thiadiazol-2-ylamino)thioxomethyl]carbamic acid, ethyl ester | 35 g, 80% yield | S1C(=NN=C1)NC(=S)NC(OCC)=O | C6H8N4O2S2
